US08912219B2
A mixture of 3-(4-bromo-2-fluorobenzylamino)butan-1-ol (800 mg, 2.9 mmol) and Burgess' Reagent (2.07 g, 8.7 mmol) in anhydrous THF (10 mL) was heated at 65° C. for 2 hours. The reaction mixture was concentrated under reduced pressure. The crude product was purified by silica gel chromatography using petroleumn ether/EtOAc (6/1) as eluting solvents to afford methyl 6-[(4-bromo-2-fluorophenyl)methyl]-5-methyl-1,1-dioxo-1λ6,2,6-thiadi-azinane-2-carboxylate as light yellow oil. (900 mg, 79%). 1H NMR (500 MHz, CDCl3) δ 7.45 (t, 1H), 7.17 (d, 1H), 7.25-7.23 (m, 1H), 4.44 (dd, 2H), 4.20-4.25 (m, 1H), 3.92-3.99 (m, 1H), 3.88 (s, 3H), 3.45-3.51 (m, 1H), 1.87-2.00 (m, 2H), 1.23 (d, 3H); LCMS (ESI): m/z=397.0 [M+H]+.

reactant | 3-(4-bromo-2-fluorobenzylamino)butan-1-ol | 2.9 mmol, 800 mg | BrC1=CC(=C(CNC(CCO)C)C=C1)F | C11H15BrFNO
reactant | Burgess' Reagent | 8.7 mmol, 2.07 g | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | methyl 6-[(4-bromo-2-fluorophenyl)methyl]-5-methyl-1,1-dioxo-1λ6,2,6-thiadi-azinane-2-carboxylate | BrC1=CC(=C(C=C1)CN1C(CCN(S1(=O)=O)C(=O)OC)C)F | C13H16BrFN2O4S
